* Schematics Netlist *



R_R5         0 $N_0001  10k  
R_R4         $N_0001 $N_0002  10k  
R_R7         0 $N_0003  10k  
C_C5         $N_0004 $N_0005  0.002u  
C_C4         $N_0001 $N_0006  1u  
I_I1         0 $N_0007 DC 0A  
I_I2         0 $N_0008 DC 0A  
V_V3         $N_0002 0 5
V_V2         $N_0006 0  
+SIN 0 1 1k 0 0 0
X_U2         $N_0007 $N_0013 $N_0012 $N_0011 $N_0008 $N_0001 $N_0003 $N_0010
+  $N_0004 $N_0005 $N_0014 $N_0015 0 $N_0009 $N_0002 0 $G_DPWR $G_DGND CD4046
+  PARAMS: MNTYMXDLY=0 IO_LEVEL=0 Rin=0.3Meg S1=1 S2=0.5 M1=0.5 M2=1.0 Vx=10 Kb=1
+  Vfree=0.0 Kc=-0.1 Vt=1.2 Vxqr=10
R_R15         0 $N_0016  10k  
R_R16         0 $N_0017  100k  
C_C8         $N_0018 $N_0019  0.002u  
R_R17         $N_0021 $N_0020  10k  
C_C9         $N_0020 0  0.01u  
R_R19         $N_0023 $N_0022  10k  
C_C10         0 $N_0023  0.01u  
V_V4         $N_0024 0 5
C_C13         $N_0025 $N_0023  0.01u  
R_R29         0 $N_0026  1Meg  
V_V8         0 $N_0027 15
V_V9         $N_0028 0 15
X_U3         $N_0014 $N_0032 $N_0021 $N_0031 $N_0029 $N_0020 $N_0016 $N_0017
+  $N_0018 $N_0019 $N_0029 $N_0022 0 $N_0030 $N_0024 0 $G_DPWR $G_DGND CD4046
+  PARAMS: MNTYMXDLY=0 IO_LEVEL=0 Rin=0.3Meg S1=1 S2=0.5 M1=0.5 M2=1.0 Vx=10 Kb=1
+  Vfree=0.0 Kc=-0.1 Vt=1.2 Vxqr=10
X_U5         $N_0025 $N_0026 $N_0028 $N_0027 $N_0033 uA741
R_R6         0 $N_0010  100k  
R_R18         0 $N_0022  10k  
R_R25         0 $N_0025  20k  
R_R30         $N_0026 $N_0033  .84Meg  
